US06420359B1
h) 5,11-Dihydro-11-ethyl-2-fluoro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A stream of ozonised oxygen was bubbled through a cold (−78° C.) solution of 5,11-dihydro-11-ethyl-2-fluoro-5-methyl-8-(2-propenyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (22.38 g, 71.6 mmol) in CH2Cl2 (100 mL) and MeOH (100 mL) for 3 h. A stream of N2 was next bubbled through the solution for 15 min and then solid NaBH4 (5.05 g, 133 mmol) was added to the solution. The reaction mixture was allowed to warm to room temperature. After 1 h, an additional portion of NaBH4 (1.62 g, 43.0 mmol) was added to the reaction mixture. After an additional hour, aqueous saturated NH4Cl (150 mL) was added and the mixture was stirred at room temperature for 30 min. The organic solvents were removed under reduced pressure. Water (200 mL) was added and the mixture was extracted with CHCl3 (3×300 mL). The combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (EtOAc:CHCl3, 4:1) to give the title compound (19.7 g, 72% yield) as a white solid.

reactant | oxygen | O=O | O2
reactant | 5,11-dihydro-11-ethyl-2-fluoro-5-methyl-8-(2-propenyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 71.6 mmol, 22.38 g | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CC=C)=O)C)C=CC(=N2)F | C17H17FN4O
reactant | NaBH4 | 133 mmol, 5.05 g | [BH4-].[Na+]
reactant | NaBH4 | 43.0 mmol, 1.62 g | [BH4-].[Na+]
reactant | NH4Cl | 150 mL | [NH4+].[Cl-]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 100 mL | CO | CH4O
product | 5,11-Dihydro-11-ethyl-2-fluoro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 19.7 g, 72% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCO)=O)C)C=CC(=N2)F | C16H17FN4O2
